US08071608B2
Intermediate AZ1: (2S)-2-(1-(2-chloro-6-cyanophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy)-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide
Sodium hydride (60% dispersion in mineral oil) (0.116 g, 2.89 mmol) was added to (S)-2-hydroxy-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide (Intermediate AZ2) (0.595 g, 1.45 mmol) in anhydrous THF (20 mL) at 0° C. under nitrogen. The resulting solution was stirred at 0° C. for 10 minutes and then 3-chloro-2-(4-chloro-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzonitrile (Intermediate AH6) (0.438 g, 1.31 mmol) was added. The reaction mixture was allowed to warm to room temperature and stirred for 1 hour. The reaction mixture was adjusted to pH 7 by addition of 1M citric acid and the majority of the THF removed in vacuo. The reaction mixture was diluted with water (20 mL) and EtOAc (50 mL). The organic layer was separated and the aqueous layer re-extracted with EtOAc (2×100 mL). The combined organics were washed with saturated brine (75 mL), dried (MgSO4) and evaporated. The crude product was purified by flash silica chromatography, eluting with 50 to 100% EtOAc in isohexane to afford the product (0.590 g, 67.5%). 1H NMR (400 MHz, CDCl3) δ 0.98-1.08 (21H, m), 1.12-1.17 (3H, m), 2.54 (3H, s), 3.59-3.78 (3H, m), 4.21-4.26 (1H, m), 4.29-4.36 (1H, m), 6.02-6.06 (1H, m), 7.60-7.65 (1H, m), 7.78-7.81 (1H, m), 7.85-7.87 (1H, m), 8.11-8.13 (1H, m), 8.50 (1H, d), 8.61 (1H, d), 8.71 (1H, d), 9.44 (1H, t); m/z (ES+) M+=665.26; HPLC tR=4.02 min.

reactant | Sodium hydride | 2.89 mmol, 0.116 g | [H-].[Na+]
reactant | (S)-2-hydroxy-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide | 1.45 mmol, 0.595 g | O[C@H](C(=O)NC1=NC=C(N=C1)C)CO[C@@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C20H37N3O4Si
reactant | 3-chloro-2-(4-chloro-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzonitrile | 1.31 mmol, 0.438 g | ClC=1C(=C(C#N)C=CC1)N1N=CC=2C1=NC=NC2Cl | C12H5Cl2N5
reactant | citric acid | 1M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (2S)-2-(1-(2-chloro-6-cyanophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy)-N-(5-methylpyrazin-2-yl)-3-((R)-1-(triisopropylsilyloxy)propan-2-yloxy)propanamide | 0.590 g, 67.5% | ClC1=C(C(=CC=C1)C#N)N1N=CC=2C1=NC=NC2O[C@H](C(=O)NC2=NC=C(N=C2)C)CO[C@@H](CO[Si](C(C)C)(C(C)C)C(C)C)C | C32H41ClN8O4Si
